US09079866B2
6-Amino-3-{2′-[(4-aminopyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrazine-2-carbonitrile
The title compound was prepared using conditions analogous to those used to make Example 6 utilizing 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile and 2-(2-bromophenoxy)pyrimidin-4-amine. MS (ESI): mass calcd. for C21H14FN7OS2, 399.12; m/z found, 400.2 [M+H]+. 1H NMR (600 MHz, DMSO-δ6) δ 8.22 (s, 1H), 7.79 (d, J=5.8, 1H), 7.62-7.51 (m, 2H), 7.49-7.38 (m, 3H), 7.38-7.30 (m, 3H), 7.20 (dd, J=8.0, 1.2, 1H), 7.01 (s, 2H), 6.10 (d, J=5.8, 1H).

reactant | 6-amino-3-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C17H18BFN4O2
reactant | 2-(2-bromophenoxy)pyrimidin-4-amine | BrC1=C(OC2=NC=CC(=N2)N)C=CC=C1 | C10H8BrN3O
product | 6-Amino-3-{2′-[(4-aminopyrimidin-2-yl)oxy]-3-fluorobiphenyl-4-yl}pyrazine-2-carbonitrile | NC1=CN=C(C(=N1)C#N)C1=C(C=C(C=C1)C1=C(C=CC=C1)OC1=NC=CC(=N1)N)F | C21H14FN7O
